US09376422B2
Step 4: methyl 5-bromo-3-(cyclohexylamino)-2-methylbenzoate
To a stirred solution of methyl 3-amino-5-bromo-2-methylbenzoate (0.3 g, 1.33 mmol) and cyclohexanone (0.64 g, 6.6 mmol) in methanol (3 mL), acetic acid (0.159 g, 2.6 mmol) was added and reaction stirred at room temperature for 3 h. Then sodium cyanoborohydride (0.208 g, 3.3 mmol) was added and reaction stirred overnight. On completion, solvent was removed under reduced pressure and was used directly in the next step.

reactant | methyl 3-amino-5-bromo-2-methylbenzoate | 1.33 mmol, 0.3 g | NC=1C(=C(C(=O)OC)C=C(C1)Br)C | C9H10BrNO2
reactant | cyclohexanone | 6.6 mmol, 0.64 g | C1(CCCCC1)=O | C6H10O
reactant | acetic acid | 2.6 mmol, 0.159 g | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 3.3 mmol, 0.208 g | C(#N)[BH3-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
product | methyl 5-bromo-3-(cyclohexylamino)-2-methylbenzoate | BrC=1C=C(C(=C(C(=O)OC)C1)C)NC1CCCCC1 | C15H20BrNO2
